US09234985B2
5-bromo-1-pentene was combined with triethylphosphite in the absence of solvent using microwave conditions at 150° C. to give diethyl 4-pentenylphosphonate. Diethyl 4-pentenylphosphonate was combined with bromotrimethyl silane and subsequently quenched with methanol to afford diethyl 4-pentenylphosphonic acid according to Scheme 8.

reactant | 5-bromo-1-pentene | BrCCCC=C | C5H9Br
reactant | triethylphosphite | C(C)OP(OCC)OCC | C6H15O3P
product | diethyl 4-pentenylphosphonate | C(CCC=C)P(OCC)(OCC)=O | C9H19O3P
